US05506240
A solution of 7.411 g of 5-methylbenzo[b]thiophene (Maybridge, Chemical Co. Ltd., 11-78) in 35 ml of ether is added dropwise at 0° to a mixture of 40 ml of 1.5N butyllithium in hexane and 40 ml of ether. After 30 minutes, a solution of 9.963 g of trimethyltin chloride in 50 ml of ether is also added dropwise at 0°. After stirring for 1 hour at 0°, 50 ml of 5% ammonium chloride solution are added. The product is obtained by extracting with 100 ml and 150 ml of ether. Distillation at 0.15 mbar and 100°-106° yields 5-methyl-2-trimethylstannylbenzo[b]thiophene.

reactant | 5-methylbenzo[b]thiophene | 7.411 g | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | butyllithium | 1.5N, 40 ml | C(CCC)[Li]
reactant | trimethyltin chloride | 9.963 g | C[Sn](C)(C)Cl
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | ether | 35 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5-methyl-2-trimethylstannylbenzo[b]thiophene | CC1=CC2=C(SC(=C2)[Sn](C)(C)C)C=C1 | InChI=1S/C9H7S.3CH3.Sn/c1-7-2-3-9-8(6-7)4-5-10-9;;;;/h2-4,6H,1H3;3*1H3;
